US08278317B2
To a solution of 4-amino-N,N-diisopropyl-3-phenyl-2-(pyridin-3-yl)butanamide (0.030 g, 0.09 mmol) in dry DCM (2 mL) was added 1-fluoro-2-(isocyanatomethyl)benzene (0.028 g, 0.18 mmol), and DIPEA (0.023 mL, 0.135 mmol). The reaction mixture was agitated for 15 h at room temperature before adding PS-trisamine (0.022 g, 0.09 mmol) and agitating for 1 h at room temperature. The crude product was then filtered to remove the solid phase and concentrated. Purification of enantiomers by ChiralPak AD (n-hexanes/EtOH, 85:15) yielded (−)-1-(3-(diisopropylcarbamoyl)-2-phenyl-3-(pyridin-3-yl)propyl)-3-(2-fluorobenzyl)urea as a foamy, off-white solid. Analytical LCMS: single peak (214 nm), 2.523 min. 1H NMR (CDCl3, 300 MHz) δ 8.26 (d, J=4.5 Hz, 1H), 8.03 (s, 1H), 7.38-7.42 (m, 2H), 7.19-7.25 (m, 1H), 6.99-7.13 (m, 6H), 6.91-6.93 (m, 2H), 4.54-4.59 (m, 1.37 (d, J=6.9 Hz, 3H), 1.26 (d, J=6.9 Hz, 3H), 1.19 (d, J=6.9 Hz, 3H), 0.60 (d, J=6.3 Hz, 3H); HRMS m/z 491.2841 (C29H35FN4O2+H requires 491.2817).

reactant | 4-amino-N,N-diisopropyl-3-phenyl-2-(pyridin-3-yl)butanamide | 0.09 mmol, 0.030 g | NCC(C(C(=O)N(C(C)C)C(C)C)C=1C=NC=CC1)C1=CC=CC=C1 | C21H29N3O
reactant | 1-fluoro-2-(isocyanatomethyl)benzene | 0.18 mmol, 0.028 g | FC1=C(C=CC=C1)CN=C=O | C8H6FNO
reactant | DIPEA | 0.135 mmol, 0.023 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | trisamine | 0.09 mmol, 0.022 g | C(C(CO)(CO)N)O | C4H11NO3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (−)-1-(3-(diisopropylcarbamoyl)-2-phenyl-3-(pyridin-3-yl)propyl)-3-(2-fluorobenzyl)urea | C(C)(C)N(C(=O)C(C(CNC(=O)NCC1=C(C=CC=C1)F)C1=CC=CC=C1)C=1C=NC=CC1)C(C)C | C29H35FN4O2
